US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-fluorobenzoyl]amino]-benzamide monohydrochloride
The titled compound was prepared substantially in accordance with the method detailed in Example 11 using 2.00 g (0.00869 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide, prepared as in Example 6A, and 2.81 g 0.01738 mol) of p-fluorobenzoyl chloride with the exception that separation of the aqueous and organic layers provided an aqueous slurry containing the desired product. This slurry was filtered and the solid obtained thereby was washed with ethyl acetate to provide 1.17 g of a solid. The filtrate was then reduced to dryness under reduced pressure to provide an additional 2.0 g of a solid. The solids were combined and then dissolved in methanol containing diethyl ether and hydrochloric acid and the resulting solution was reduced to dryness under reduced pressure. The final product was purified by crystallization from a cyanomethane/methanol solution followed by recrystallization from an ethanol/diethyl ether solution to provide 2.75 g of the desired titled compound (m.p. 209°-210° C.). Analysis for C19H17FN4O2.HCl: Calc.: C, 58.69; H, 4.67; N, 14.41; Found: C, 58.60; H, 4.80; N, 14.18.

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide | 0.00869 mol, 2.00 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | p-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-fluorobenzoyl]amino]-benzamide monohydrochloride | Cl.N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)F)=O)=O | InChI=1S/C19H17FN4O2.ClH/c20-14-7-5-13(6-8-14)18(25)24-16-4-2-1-3-15(16)19(26)23-10-9-17-21-11-12-22-17;/h1-8,11-12H,9-10H2,(H,21,22)(H,23,26)(H,24,25);1H
